*#######################################################################
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
*distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
*#######################################################################
       
.include resistors_parm.scs 

**ptap1 (TIE SUB)
.subckt ptap1 1 2 
R1 1 2 R=262.847
.ends ptap1

**ntap1 (TIE WELL)
.subckt ntap1 1 2 
R1 1 2 R=262.847
.ends ntap1

* Parasitic R/C models
* aluminum: prozess tol. res_rpara 
* value is taken from extraction routine
.subckt Rparasitic 1 2 
.param R=0 w=0 l=0 TC1=0.00353 TC2=0
R1 1 2 R=r*res_rpara TC1=TC1 TC2=TC2 
.ends Rparasitic

.subckt rsil 1 3
.param w=0.5e-6 l=0.5e-6 b=0
+kappa=1.85
+ps=0.18e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+res_rzspec=2*rzspec/w
+weff=w+0.01e-6
+rzspec=4.5e-6
R1 1 2 res_rsil L=leff W=weff
R2 2 3 R=res_rzspec TC1=3100e-6 TC2=0.3e-6
.ends rsil

.subckt rhigh 1 3 
.param w=0.5e-6 l=0.96e-6 b=0 
+kappa=1.85
+ps=0.18e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+res_rzspec=2*rzspec/w
+weff=w-0.04e-6
+rzspec=80e-6
R1 1 2 res_rhigh L=leff W=weff
R2 2 3 R=res_rzspec TC1=-2300e-6 TC2=2.1e-6
.ends rhigh

.subckt rppd 1 3 
.param w=0.5e-6 l=0.5e-6 b=0
+kappa=1.85
+ps=0.18e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+res_rzspec=2*rzspec/w
+weff=w+0.006e-6
+rzspec=35e-6
R1 1 2 res_rppd L=leff W=weff
R2 2 3 R=res_rzspec TC1=-950e-6
.ends rppd
